US07504508B2
Benzyl-4-[acetyl(cyclopropyl)amino]-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate was dissolved in MeOH and a catalytic amount of Palladium on Carbon (10%) was added. The round bottom flask in which resided the resulting solution was evacuated and backfilled with hydrogen. The reaction was stirred under the hydrogen atomosphere overnight. The mixture was carefully filtered through a Celite® plug and concentrated to afford crude product. The crude residue was purified by silica gel chromatography (hexanes/ethyl acetate system) to afford N-cyclopropyl-N-(2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)acetamide.

reactant | Benzyl-4-[acetyl(cyclopropyl)amino]-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | C(C1=CC=CC=C1)OC(=O)N1C(CC(C2=CC=CC=C12)N(C1CC1)C(C)=O)C | C23H26N2O3
solvent | MeOH | CO | CH4O
catalyst | Palladium on Carbon | [Pd] | Pd
product | N-cyclopropyl-N-(2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)acetamide | C1(CC1)N(C(C)=O)C1CC(NC2=CC=CC=C12)C | C15H20N2O
